US04489093
Using the procedure of Example 1, (1R,cis) 2,2-dimethyl-3(Z)-[2-chloro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylic acid and (S)α-cyano-3-phenoxy-benzyl alcohol were reacted to obtain (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(Z)-[2-chloro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+21.5°±2.5° (c=0.3% in chloroform).

reactant | (1R,cis) 2,2-dimethyl-3(Z)-[2-chloro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylic acid | CC1([C@@H]([C@@H]1\C=C(\C(OCC)=O)/Cl)C(=O)O)C | C11H15ClO4
reactant | (S)α-cyano-3-phenoxy-benzyl alcohol | C(#N)[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(Z)-[2-chloro-3-oxo-3-ethoxy-propenyl]-cyclopropane-1-carboxylate | CC1([C@@H]([C@@H]1\C=C(\C(OCC)=O)/Cl)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C25H24ClNO5
